US04536518
(E) 4-(3,4-Dichlorophenyl)-3,4-dihydro-1-(2H)-naphthalenone
A solution of 4-(3,4-dichlorophenyl)-4-phenylbutanoic acid (228 g., 0.74 mole) in toluene (1.2 l.) was treated with thionyl chloride (66 ml., 0.90 mole) and the resulting solution heated at reflux for 75 minutes, with provision made for trapping HCl gas given off from the refluxing reaction solution. The reaction solution was then evaporated under vacuum to about 230 g. of a light brown oil. The oil was dissolved in carbon disulfide (360 ml.) and the resulting solution added to a well stirred suspension of AlCl3 (1.5 kg., 12.5 moles) in carbon disulfide (1.20 l.), with the mixture held below 8° C. during the addition period, forming a brown mass. After the addition was completed, the reaction mixture was stirred for about 16 hours at room temperature and then slowly poured on ice (vigorous reaction). The resulting suspension was extracted with ethyl acetate (2×4 l.). The combined extract was washed with water, washed with saturated aqueous sodium bicarbonate solution, dried and evaporated under vacuum to a residue, which was crystallized from hexane (500 ml.) to yield the named product (104.1 g., 48% yield, m.p. 99°-101° C., elemental analysis calculated: 66.00% C; 4.16% H; found: 66.06% C; 4.23% H).

reactant | 4-(3,4-dichlorophenyl)-4-phenylbutanoic acid | 0.74 mole, 228 g | ClC=1C=C(C=CC1Cl)C(CCC(=O)O)C1=CC=CC=C1 | C16H14Cl2O2
reactant | thionyl chloride | 0.90 mole, 66 ml | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
reactant | AlCl3 | 12.5 moles, 1.5 kg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | toluene | 1.2 l | C1(=CC=CC=C1)C | C7H8
solvent | carbon disulfide | 1.20 l | C(=S)=S | CS2
product | 4-(3,4-Dichlorophenyl)-3,4-dihydro-1-(2H)-naphthalenone | 48% yield | ClC=1C=C(C=CC1Cl)C1CCC(C2=CC=CC=C12)=O | C16H12Cl2O
